US05635518
A mixture of 4-phenoxy-1-butylbromide (10 g, 44 mmol), (R)-3-piperidine-carboxylic acid ethyl ester (15 g, 44 mmol), potassium carbonate (18 g, 131 mmol) and methyl isobutylketone (100 ml) was heated at reflux overnight. The reaction mixture was allowed to cool and then filtered. The solvent was evaporated from the filtrate in vacuo and the residue was purified by column chromatography on silica gel (300 g, heptane/ethyl acetate=4/1) to give 12.1 g of (R)-1-(4-phenoxy-1-butyl)-3-piperidinecarboxylic acid ethyl ester as an oil.

reactant | 4-phenoxy-1-butylbromide | 44 mmol, 10 g | O(C1=CC=CC=C1)CCCCBr | C10H13BrO
reactant | (R)-3-piperidine-carboxylic acid ethyl ester | 44 mmol, 15 g | C(C)OC(=O)[C@H]1CNCCC1 | C8H15NO2
reactant | potassium carbonate | 131 mmol, 18 g | C([O-])([O-])=O.[K+].[K+]
solvent | methyl isobutylketone | 100 ml | CC(=O)CC(C)C | C6H12O
product | (R)-1-(4-phenoxy-1-butyl)-3-piperidinecarboxylic acid ethyl ester | 12.1 g | C(C)OC(=O)[C@H]1CN(CCC1)CCCCOC1=CC=CC=C1 | C18H27NO3
